US08202885B2
BB19. 2,2-Dimethyl-N-(3-oxo-propyl)-propionamide
Prepared from 2,2-dimethyl-propionyl chloride in absence of a coupling reagent in analogy to the methods described for 3-methoxy-2-methoxymethyl-2-methyl-N-(3-oxo-propyl)-propionamide.

reactant | 2,2-dimethyl-propionyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 3-methoxy-2-methoxymethyl-2-methyl-N-(3-oxo-propyl)-propionamide | COCC(C(=O)NCCC=O)(C)COC | C10H19NO4
product | 2,2-Dimethyl-N-(3-oxo-propyl)-propionamide | CC(C(=O)NCCC=O)(C)C | C8H15NO2
